US07153968B2
Step 1: Trans-2-(4-Bromo-phenyl)-cyclopropanecarboxylic acid ethyl ester
To a solution of E-3-(4-bromo-phenyl)-acrylic acid ethyl ester and Pd(OAc)2 (0.05 eq.) in THF (0.2M) was added portionwise CH2N2 until the reaction was completed. NMR of aliquots monitored the reaction. The resulting mixture was concentrated and filtered on celite to afford the title compound as an oil.

reactant | E-3-(4-bromo-phenyl)-acrylic acid ethyl ester | C(C)OC(\C=C\C1=CC=C(C=C1)Br)=O | C11H11BrO2
reactant | THF | 0.2M | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.05 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Trans-2-(4-Bromo-phenyl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)Br | C12H13BrO2
